US04831041
A mixture of 2-amino-3-(4-cyanobenzyloxy)pyridine (2.25 g) and lN sodium hydroxide solution (22 ml) in methanol (45 ml) was refluxed for 4.5 hours and then cooled. The resulting precipitates were collected by filtration and dried to give 2-amino-3-(4-carbamoylbenzyloxy)pyridine (1.84 g).

reactant | 2-amino-3-(4-cyanobenzyloxy)pyridine | 2.25 g | NC1=NC=CC=C1OCC1=CC=C(C=C1)C#N | C13H11N3O
reactant | sodium hydroxide | 22 ml | [OH-].[Na+]
solvent | methanol | 45 ml | CO | CH4O
product | 2-amino-3-(4-carbamoylbenzyloxy)pyridine | 1.84 g | NC1=NC=CC=C1OCC1=CC=C(C=C1)C(N)=O | C13H13N3O2
